US04002647
3,7-dimethyl-6-octenyl p-toluenesulfonate and 6-hydroxy-2,3-dihydrobenzofuran are reacted to produce 6-[(3,7-dimethyl-6-octenyl)-oxy]-2,3-dihydrobenzofuran of boiling point 126°-128° C./0.001 mmHg; nD20 = 1.5223; and 3,7-dimethyl-6-octenyl p-toluenesulfonate and 6-hydroxy-3-methyl-2,3-dihydrobenzofuran are reacted to produce 6-[(3,7-dimethyl-6-octenyl)-oxy]-3-methyl-2,3-dihydrobenzofuran of boiling point (bulb-tube) 130° C./0.14 mmHg; nD20 = 1.5150.

reactant | 3,7-dimethyl-6-octenyl p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)OCCC(CCC=C(C)C)C)C | C17H26O3S
reactant | 6-hydroxy-3-methyl-2,3-dihydrobenzofuran | OC1=CC2=C(C(CO2)C)C=C1 | C9H10O2
product | 6-[(3,7-dimethyl-6-octenyl)-oxy]-3-methyl-2,3-dihydrobenzofuran | CC(CCOC1=CC2=C(C(CO2)C)C=C1)CCC=C(C)C | C19H28O2
